US05773433
A mixture of (±)-cis-1-[(11-chloro-3,3a-dihydro-2H-dibenz[b,f]isoxazolo[2,3-d][1,4]-oxazepin-2-yl)methyl]-4-(trifluoroacetyl)piperazine (7.1 g), prepared following the procedure of example 7, and potassium carbonate (4.2 g) in methanol (300 ml) and water (43 ml) was stirred at RT for 2 hours. The solvent was evaporated. The residue was treated with water, extracted with CH2Cl2 and the separated organic layer was evaporated. The residue (5.1 g) was purified by flash chromatography over silica gel (eluent: CH2Cl2 /CH3OH 9/1, 8/2 to 7/3) and the pure fractions were collected and evaporated. The residue (4.2g) was converted into the oxalic acid salt (2:3) in C2H5OH at room temperature, yielding 3.9 g (47%) of (±)-cis- 11-chloro-3,3a-dihydro-2-(1-piperazinylmethyl)-2H-dibenz[b,f]isoxazolo[2,3-d][1,4]oxazepine ethanedioate(2:3); mp. >250.0° C. (comp. 3).

reactant | (±)-cis-1-[(11-chloro-3,3a-dihydro-2H-dibenz[b,f]isoxazolo[2,3-d][1,4]-oxazepin-2-yl)methyl]-4-(trifluoroacetyl)piperazine | 7.1 g | ClC1=CC2=C(OC3=C([C@H]4N2O[C@@H](C4)CN4CCN(CC4)C(C(F)(F)F)=O)C=CC=C3)C=C1 | C22H21ClF3N3O3
reactant | potassium carbonate | 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 300 ml | CO | CH4O
solvent | water | 43 ml | O | H2O
product | (±)-cis- 11-chloro-3,3a-dihydro-2-(1-piperazinylmethyl)-2H-dibenz[b,f]isoxazolo[2,3-d][1,4]oxazepine ethanedioate | 3.9 g, 47% | C(C(=O)O)(=O)O.ClC1=CC2=C(OC3=C([C@H]4N2O[C@@H](C4)CN4CCNCC4)C=CC=C3)C=C1 | InChI=1S/C20H22ClN3O2.C2H2O4/c21-14-5-6-20-18(11-14)24-17(16-3-1-2-4-19(16)25-20)12-15(26-24)13-23-9-7-22-8-10-23;3-1(4)2(5)6/h1-6,11,15,17,22H,7-10,12-13H2;(H,3,4)(H,5,6)/t15-,17-;/m0./s1
